US06455507B1
b) (±)-(1R*,2S*,3R*)-3-(5,6-Dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl Diacetate
(±)-(1R*,2S*,3R*)-3-(4,5-Dichloro-2-nitroanilino)-1,2-cyclohexanediyl diacetate (part a of this example, 5.65 g, 13.9 mmol) in n-propanol (250 ml) was shaken with Raney nickel (Aldrich, ca. 0.50 g) under hydrogen (50 psi) for 2 h. Filtration through Celite and evaporation of solvent left the 5,6-diaminobenzimidazole intermediate. Triethylorthoformate (250 ml) and 4 drops of methanesulfonic acid were added and the solution stirred at room temperature for 2 days. Volatiles were evaporated in vacuo and the residual material chromatographed on silica gel. Title compound eluted with 2% methanol-ethyl acetate as off-white solid (1.87 g, 35%), m.p. 163-165° C. Anal. Calcd. for C17H18Cl2N2O4: C, 53.00; H, 4.71; N, 7.27; Cl, 18.41. Found: C, 52.85; H, 4.72; N, 7.17; Cl, 18.35.

reactant | (±)-(1R*,2S*,3R*)-3-(4,5-Dichloro-2-nitroanilino)-1,2-cyclohexanediyl diacetate | C(C)(=O)O[C@H]1[C@H]([C@@H](CCC1)NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])OC(C)=O | C16H18Cl2N2O6
reactant | n-propanol | 250 ml | C(CC)O | C3H8O
catalyst | Raney nickel | ca. 0.50 g | [Ni] | Ni
product | (±)-(1R*,2S*,3R*)-3-(5,6-Dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl Diacetate | C(C)(=O)O[C@H]1[C@H]([C@@H](CCC1)N1C=NC2=C1C=C(C(=C2)Cl)Cl)OC(C)=O | C17H18Cl2N2O4
